US07981918B2
(R)-3-(4-Hydroxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Treat a solution of (R)-3-(4-Benzyloxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one (Preparation 64) (1.65 g, 3.8 mmol) in EtOH (20 mL) with Palladium Hydroxide on carbon (1.7 g). Purge the solution with Hydrogen and pressurize to 35 psi. The reaction stirs 2 days at 35 psi of hydrogen. Filter the reaction through celite to remove catalyst. Purify the crude by silica gel column chromatography using CH2Cl2 and 2M Ammonia in MeOH to elute the pure product. Remove the solvent to afford 0.85 g (65%) of desired product. MS (m/e): 340 (M+1).

reactant | (R)-3-(4-Benzyloxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | 3.8 mmol, 1.65 g | C(C1=CC=CC=C1)OC1=CC(=C(C[C@H]2C(N(CC2)C2CC3=CNN=C3CC2)=O)C(=C1)C)C | C27H31N3O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Palladium Hydroxide on carbon | 1.7 g | [OH-].[OH-].[Pd+2]
product | (R)-3-(4-Hydroxy-2,6-dimethyl-benzyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | 0.85 g, 65% | OC1=CC(=C(C[C@H]2C(N(CC2)C2CC3=CNN=C3CC2)=O)C(=C1)C)C | C20H25N3O2
